US07846929B2
To [1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-meth-(E)-ylidene]-methyl-amine (0.9 g) in methanol (25 ml) and tetrahydrofuran (10 ml) under nitrogen was added sodium borohydride (0.17 g) and molecular sieves. The reaction mixture was stirred at room temperature overnight. The solvents were removed in vacuo, quenched with brine, extracted with dichloromethane, dried (MgSO4) and the solvent removed in vacuo to give a crude product which was purified using flash chromatography to give (2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-amine (342 mg).

reactant | [1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-meth-(E)-ylidene]-methyl-amine | 0.9 g | ClC=1N=C(C2=C(N1)C=C(S2)\C=N\C)N2CCOCC2 | C12H13ClN4OS
reactant | sodium borohydride | 0.17 g | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methyl-amine | 342 mg | ClC=1N=C(C2=C(N1)C=C(S2)CNC)N2CCOCC2 | C12H15ClN4OS
